* Z:\mnt\spice-netlists\LT8601_DC2346A.asc
R1 0 N013 28.7K
C1 N015 0 1000p
C2 N014 0 1000p
C3 N010 0 4.7µ
L1 N011 OUT3 1µ
R2 OUT3 N012 187K
R3 N012 0 150K
C4 OUT3 N012 22p
C5 OUT3 0 47µ
L2 N007 OUT2 1.5µ
R4 OUT2 N009 464K
R5 N009 0 200K
C6 OUT2 N009 12p
C7 OUT2 0 47µ
C8 N005 N007 .1µ
L3 N002 OUT1 3.3µ
R6 OUT1 N003 806K
R7 N003 0 200K
C9 OUT1 N003 4.7p
C10 OUT1 0 47µ
C11 N001 N002 .1µ
C12 OUT2 0 4.7µ x2
V1 IN 0 24
XU1 N004 0 N002 N001 N005 N007 MP_01 MP_02 MP_03 OUT2 N006 N008 MP_04 IN N011 MP_05 OUT2 N006 MP_06 N015 N014 IN IN N012 N009 N003 MP_07 N010 N013 MP_08 NC_09 NC_10 0 MP_11 MP_12 MP_13 IN MP_14 0 LT8601
R8 N004 OUT2 20K
R9 OUT2 N006 20K
R10 OUT2 N008 20K
Rload2 OUT2 0 3.3
Rload3 OUT3 0 1.2
Rload1 OUT1 0 3.3
.tran 2.2m startup
* LT8601 - 42V Triple Monolithic Synchronous Step-Down Regulator\nTriple Automotive Buck Regulator\nInput: 5.5V to 42V       Output: 5V @ 1.0A, 3.3V @ 2.0A, 1.8V @ 1A. Fsw = 2MHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LT8601.sub
.backanno
.end
