* Z:\mnt\spice-netlists\LT8610_DC1749A.asc
XU1 0 N003 N005 IN IN MP_01 0 MP_02 N004 MP_03 MP_04 N002 N001 OUT NC_05 N006 0 LT8610
R1 N005 0 60.4K
C1 N003 0 .001µ
V1 IN 0 12
C2 N001 0 1µ
L1 N004 OUT 4.7µ
C3 N002 N004 .1µ
C4 OUT 0 47µ
R2 OUT N006 1Meg
R3 N006 0 412K
C5 OUT N006 4.7p
C6 IN 0 4.7µ
Rload OUT 0 1.5
.tran 1m startup
* LT8610 - 42V, 2.5A Synchronous Step-Down Regulator with 2.5µA Quiescent Current\nµPower Synchronous Step-Down Regulator\nInput: 3.8V to 42V     Output: 3.3V @ 2.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT8610.sub
.backanno
.end
