* Z:\mnt\spice-netlists\LT8709_DC2148A.asc
XU1 N011 N012 N015 NC_01 N014 0 N001 0 N009 N002 N005 N008 0 IN N006 N007 N008 N010 MP_02 IN LT8709
V1 0 IN 12
L1 N003 0 3.5µ
R1 0 N001 6m
R2 OUT N011 130K
C1 0 OUT 66µ
C2 N012 IN 47p
C3 N013 IN 4.7n
R3 N012 N013 10K
C4 N015 IN 10n
C5 N014 IN 0.1µ
R4 N010 IN 88.7K
R5 N007 IN 10K
R6 0 N007 13.3K
C6 N008 IN 2.2µ
C7 0 N009 2.2µ
R7 N006 IN 2m
C8 0 IN 50µ
C9 0 IN 220µ
M§Q1 N004 N002 N001 N001 Si7465DP
M§Q2 N003 N005 N006 N006 BSC028N06LS3
C10 0 IN 2.2µ
L2 N004 OUT 3.5µ
C11 N004 N003 44µ
Rload 0 OUT 2.4
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
K1 L1 L2 0.97
* LT8709 - Negative Input Synchronous Multi-Topology DC/DC Controller\nNegative Buck-Boost Regulator with Output Current Monitor and Power Good Indication\nInput: -4.5V to -38V       Output: -12V @ 5A with 12V Input, Fsw = 400kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8709.sub
.backanno
.end
