* Z:\mnt\spice-netlists\LT8330_DC2018A_BOOST_TA01A.asc
XU1 N002 MP_01 N001 MP_02 0 IN N003 IN LT8330
C1 N003 0 1µ
V1 IN 0 12
L1 IN N001 6.8µ
R1 OUT N002 1Meg
R2 N002 0 34.8K
C2 OUT N002 4.7p
C3 OUT 0 4.7µ
Rload OUT 0 355
D1 N001 OUT PMEG6010AED
C4 IN 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* LT8330 - Low Iq Boost/SEPIC/Inverting Converter with 1A, 60V Switch\n48V Boost Converter\nInput: 10V to 36V       Output: 48V @ 135mA with 12V Input
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8330.sub
.backanno
.end
