* Z:\mnt\spice-netlists\LT3492_DC1405A_Boost.asc
R1 N001 N002 1.65
L1 N007 N006 27µ
D2 N006 N001 PMEG6010AED
C2 0 N011 2000p
V2 N007 0 12
V3 N005 0 5
V1 N012 0 PULSE(5 0 1m 1u 1u 500u 1m)
C3 N009 0 10n
D1-D15 N003 0 QTLP690C N=15
C4 N007 0 1µ V=50
C5 N005 0 1µ
M§Q1 N003 N004 N002 N002 Si9407AEY
R2 N001 N008 7.15Meg
R3 N008 0 124K
C1 N001 0 1µ V=100
R4 N011 N010 18.2K
XU2 N005 N005 N009 N009 MP_01 MP_02 N012 N009 N010 N008 MP_03 N002 N001 N004 N006 MP_04 0 LT3492
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
* LT3492 - Triple Output LED Driver with 3000:1 PWM Dimming\nTriple Boost LED Driver\nInput: 8V to 40V       Output: 15 LEDs (54V) @ 61mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3492.sub
.backanno
.end
