* Z:\mnt\spice-netlists\LT3518_DC1160A_Buck-Boost.asc
L1 N001 N006 4.3µ
R1 N003 N007 .3
C1 N001 0 2.2µ
V1 N001 0 12
D1 N002 N001 LXHL-BW02 N=4
R2 N011 0 6.04K
M§Q1 N002 N008 N007 N007 FDS4559_P
C2 N013 0 .0047µ
C3 N015 0 .01µ
XU1 N001 N001 N010 N011 0 N015 N014 N010 N012 N009 N010 N007 N003 N008 N006 MP_01 0 LT3518
C4 N003 0 2.2µ
V2 N014 0 PULSE(3.3 0 1m 100n 100n 9800u 10m)
R3 N009 0 24.9K
D2 N006 N003 10MQ060N
Q2 N009 N005 N004 0 2N3906
R4 N003 N004 475K
R5 N005 N001 10K
R6 N012 N013 5.1K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 40m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
* DC1160A - LT3518 45V, 2.3A Internal Switch Buck-Boost Mode LED Driver\nInput: 12V       Output: 330mA through a string of 4 LEDs\nPWM DIM: 100Hz 1:50 ratio    20V LED+ to LED- OVP with OPEN LED string
.lib LT3518.sub
.backanno
.end
