* Z:\mnt\spice-netlists\LT3518_DC1160A_Buck.asc
L1 N004 N008 15µ
R1 N001 N002 .068
C5 N001 N004 10µ
V2 N001 0 24
D1 N003 N004 LXK2-PW14 N=3
R6 N012 0 16.5k
M§Q1 N003 N005 N002 N002 FDS4685
V1 N007 0 3.3
C4 N014 0 4.7n
C3 N016 0 .01µ
D2 N008 N001 10MQ060N
V3 N015 0 PULSE(3.3 0 1m 100n 100n 9800u 10m 4)
XU1 N007 N007 N011 N012 0 N016 N015 N011 N013 N010 N011 N002 N001 N005 N008 MP_01 0 LT3518
R2 N014 N013 5.1k
R3 N010 0 24.9k
R5 N001 N006 348k
Q2 N010 N009 N006 0 2N3906
C1 N007 0 1µ
C2 N001 0 2.2µ
R4 N009 N004 10k
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 42m startup
* DC1160A - LT3518 45V, 2.3A Internal Switch Buck Mode LED Driver\nInput: 24V       Output: 1.5A through a string of 3 LEDs\nPWM DIM: 100Hz 1:50 ratio    15V LED+ to LED- OVP with OPEN LED string
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3518.sub
.backanno
.end
