* Z:\mnt\spice-netlists\LT3063_DC2177A_TA01.asc
XU1 N002 N001 OUT MP_01 IN MP_02 IN 0 LT3063
V1 IN 0 2.3
C1 N002 0 .01µ
R1 OUT N001 118K
R2 N001 0 59K
C2 OUT 0 10µ
Rload OUT 0 9
.tran .1 startup
* LT3063 - 45V Vin, µPower, Low Noise, 200mA LDO with Output Discharge\n1.8V Low Noise Regulator with Output Discharge\nInput: 2.3V     Output: 1.8V @ 200mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT3063.lib
.backanno
.end
