* Z:\mnt\spice-netlists\LT3797_DC1784A_TA01.asc
XU1 N015 N017 N021 N013 N013 N013 N013 N024 N024 N024 N012 0 MP_01 N016 N014 OUT1 N018 MP_02 N029 N005 0 N011 N010 N022 N023 0 N006 N030 MP_03 N027 OUT2 N025 N026 MP_04 N036 N038 OUT3 N032 MP_05 N031 N007 0 N034 N033 N004 MP_06 N001 N003 N002 IN N009 0 0 LT3797
V1 IN 0 12
L1 N001 N002 47µ
C1 N002 N003 .1µ
C2 0 N004 10µ
C3 0 N005 .05µ
C4 0 N006 .05µ
C5 0 N007 .05µ
R1 IN N009 100K
R2 N009 0 105K
R3 N012 0 47.5K
R4 IN N024 1Meg
R5 N024 0 140K
C6 N029 0 6.8n
L2 IN N008 10µ
M1 N008 N010 N011 N011 Si4470DY
R6 N011 0 8m
D1 N008 OUT1 MBRS360
R7 OUT1 N014 .25
M2 N019 N016 N014 N014 Si7113DN
R8 OUT1 N018 23.2K
R9 N018 0 1Meg
C9 OUT1 0 4.7µ x3
D2 N019 0 LXK2-PW14 N=13
L3 IN N020 10µ
M3 N020 N022 N023 N023 Si4470DY
R10 N023 0 8m
D3 N020 OUT2 MBRS360
R11 OUT2 N025 .25
M4 N028 N026 N025 N025 Si7113DN
R12 OUT2 N027 23.2K
R13 N027 0 1Meg
C10 OUT2 0 4.7µ x3
D4 N028 0 LXK2-PW14 N=13
L4 IN N035 10µ
M5 N035 N033 N034 N034 Si4470DY
R14 N034 0 8m
D5 N035 OUT3 MBRS360
R15 OUT3 N038 .25
M6 N037 N036 N038 N038 Si7113DN
R16 OUT3 N032 23.2K
R17 N032 0 1Meg
C11 OUT3 0 4.7µ x3
D6 N037 0 LXK2-PW14 N=13
C7 N030 0 6.8n
C8 N031 0 6.8n
C12 IN 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5ms startup
* LT3797 - Triple LED Controller\nTriple LED Boost Controller\nInput: 2.7V to 40V      Output: 3x 50V LED Strings @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT3797.sub
.backanno
.end
